US06100429
A mixture of 4-bromoaniline (1.72 g, 10 mmol), benzaldehyde (0.27 g free of benzoic acid, 2.5 mmol), benzoic acid (20 mg, 0.16 mmol), PdCl2 (2 mg) and triethylamine (3.5 g) was deaerated by bubbling nitrogen and then heated to reflux for 30 min. The reaction mixture was cooled to 50° C. and treated with triphenylphosphine (73 mg in 0.5 g of TEA) followed by 2-methyl-3-butyn-2-ol (1.1 g, 13 mmol) and then CuI (20 mg in 1 g TEA). This mixture was heated at reflux for 12 hr. Thin layer chromatography showed the reaction to form 3-aminophenylacetylene dimethylcarbinol, in mixture with N-benzylidene 3-aminophenylacetylene dimethylcarbinol, to be complete.

reactant | 4-bromoaniline | 10 mmol, 1.72 g | BrC1=CC=C(N)C=C1 | C6H6BrN
reactant | benzaldehyde | 2.5 mmol, 0.27 g | C(C1=CC=CC=C1)=O | C7H6O
reactant | benzoic acid | 0.16 mmol, 20 mg | C(C1=CC=CC=C1)(=O)O | C7H6O2
reactant | 2-methyl-3-butyn-2-ol | 13 mmol, 1.1 g | CC(C)(C#C)O | C5H8O
catalyst | PdCl2 | 2 mg | Cl[Pd]Cl
catalyst | CuI | 20 mg | [Cu]I
solvent | triethylamine | 3.5 g | C(C)N(CC)CC | C6H15N
product | 3-aminophenylacetylene dimethylcarbinol | CC(O)C.NC=1C=C(C=CC1)C#C | InChI=1S/C8H7N.C3H8O/c1-2-7-4-3-5-8(9)6-7;1-3(2)4/h1,3-6H,9H2;3-4H,1-2H3
